US06982274B2
4-Fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl-amine
A total of 652 mg of {4-fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl}-carbamic acid benzyl ester obtained in Production Example II-19-b was dissolved in 20 ml of methanol, 652 mg of 10% palladium-carbon, and the mixture was subjected to catalytic hydrogenation at room temperature at normal pressure. After stirring for 4 hours, the mixture was filtered through Celite, and the filtrate was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:5), to give 297 mg of the title compound.

reactant | {4-fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl}-carbamic acid benzyl ester | 652 mg | C(C1=CC=CC=C1)OC(NC=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F)F)=O | C40H29F2N3O2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 652 mg | [C].[Pd]
product | 4-Fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl-amine | 297 mg | FC1=C2C(=NN(C2=CC=C1N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C32H23F2N3
